US08486952B2
A solution of 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (200 mg, 0.754 mmol) and excess dimethylamine (3.77 mL, 7.54 mmol) in MeOH (2 mL) was stirred at rt for 1 h. The solvent was removed in vacuum to afford 2-chloro-N,N-dimethyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (207 mg, 0.756 mmol, 100% yield). LC-MS (M+H)+=274.2.

reactant | 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.754 mmol, 200 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)Cl | C13H10Cl2N2
reactant | dimethylamine | 7.54 mmol, 3.77 mL | CNC | C2H7N
solvent | MeOH | 2 mL | CO | CH4O
product | 2-chloro-N,N-dimethyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.756 mmol, 207 mg, 100% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N(C)C | C15H16ClN3
